US05958942
iv) Synthesis of 4,5-dihydro-4-[4-(2-trifluoromethane sulfonamidoethan-1-yl)phenyl]-3H-1,4,8b-triazaacenaphthylen-3-one
To a solution of 644 mg (1.00 mmol) of 3-trichloroacetyl-5-[N-tert-butoxycarbonyl-N-[4-(2-trifluoromethanesulfonamidoethan-1-yl)phenyl]aminomethyl]imidazo[1,2-a] pyridine in 5 ml of chloroform was added dropwise 0.29 ml (2.00 mmol) of trimethylsilyl iodide at room temperature. The reaction mixture was stirred for 30 minutes at room temperature, and poured into ice-water. The mixture was neutralized with a saturated aqueous solution of sodium hydrogencarbonate. To the mixture was added 50 ml of chloroform for extraction of the desired compound. The organic layer was washed with 50 ml of a saturated aqueous saline solution, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent; chloroform:methanol=20:1) to afford 195.7 mg of the desired compound (46.1%, a pale yellow solid).

reactant | 3-trichloroacetyl-5-[N-tert-butoxycarbonyl-N-[4-(2-trifluoromethanesulfonamidoethan-1-yl)phenyl]aminomethyl]imidazo[1,2-a] pyridine | 1.00 mmol, 644 mg | ClC(C(=O)C1=CN=C2N1C(=CC=C2)CN(C2=CC=C(C=C2)CCNS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C)(Cl)Cl | C24H24Cl3F3N4O5S
reactant | trimethylsilyl iodide | 2.00 mmol, 0.29 ml | C[Si](C)(C)I | C3H9ISi
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 4,5-dihydro-4-[4-(2-trifluoromethane sulfonamidoethan-1-yl)phenyl]-3H-1,4,8b-triazaacenaphthylen-3-one | 195.7 mg | FC(S(=O)(=O)NCCC1=CC=C(C=C1)N1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C18H15F3N4O3S
